US05166204
5.0 g of 1-methylindole was dissolved in 30 ml of anhydrous tetrahydrofuran. Thereto was dropwise added 30 ml of 1.5 M n-butyllithium hexane solution, at -30° C. in 5 minutes with stirring. The mixture was stirred at 0° C. for 30 minutes. Thereto was dropwise added 4.2 ml of acetone in 10 minutes at the same temperature, and the resulting mixture was stirred at room temperature for 10 minutes. The solvent was removed by distillation under reduced pressure. The residue was mixed with 100 ml of ethyl acetate and 50 ml of water to dissolve the residue. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: toluene/ethyl acetate=50/1 to 20/1), followed by recrystallization from n-hexane, to obtain 3.25 g (yield: 45%) of 2-(1-hydroxy-1-methylethyl)-1-methylindole as colorless crystals.

reactant | 1-methylindole | 5.0 g | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | n-butyllithium hexane | 1.5 M, 30 ml | CCCCCC.C(CCC)[Li]
reactant | acetone | 4.2 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(1-hydroxy-1-methylethyl)-1-methylindole | 3.25 g, yield: 45% | OC(C)(C)C=1N(C2=CC=CC=C2C1)C | C12H15NO
